data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
981,1065,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17]([CH3:18])=[O:19])[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:22]([C:23]#[N:24])[N:20]([CH3:21])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17]([CH3:18])=[O:19],water,298.15,18.91715523232585,-21.06336579858288
2434,2702,[CH3:18][N+:19](=[N:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N-:27][C:28]#[N:29].[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([Br:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([Br:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:19]([CH3:18])[N:27]2[C:28]#[N:29],water,298.15,30.54641353923993,-15.87198264630898
195,212,[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:12]([CH3:11])([CH3:13])[O:14][C:15]3([CH3:16])[C:17]#[N:18],water,298.15,8.132737122246768,-68.75204865940401
2555,2835,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:18][C:19]2([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,17.608471247629346,-26.39462273489505
5007,5695,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([CH3:17])([C:18](=[O:19])[NH:20][CH3:21])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,7.085327478010247,-43.37805737631109
1279,1400,[CH3:18][C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:24]([CH3:25])([CH3:26])[N:22]([CH3:23])[C:19]2([CH3:18])[C:20]#[N:21],water,298.15,21.721308297631182,-19.669871403017662
4489,5122,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,11.345782392345464,-25.57197848732913
2897,3220,[CH2:1]=[CH2:2].[CH3:3][C:4]([C:5]#[N:6])=[O+:7][O-:8]>>[CH2:1]1[CH2:2][O:8][O:7][C:4]1([CH3:3])[C:5]#[N:6],water,298.15,10.482495432162628,-40.65706588244092
4253,4867,[CH3:6][O:7][C:8](=[O:9])[C:10](=[O+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[O:11][C:10]1([C:8]([O:7][CH3:6])=[O:9])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,41.71479473226615,9.646486167302774
1499,1654,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([O+:17]=[C:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[C:18]([C:19]#[N:20])([C:21]([CH3:22])=[O:23])[O:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,3.5589211747001324,-72.97175081784155
2839,3154,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[CH-:31][N+:32]([CH3:33])=[C:34]([C:35](=[O:36])[O:37][CH3:38])[C:39](=[O:40])[O:41][CH3:42]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:31]([C:29]([O:28][CH3:27])=[O:30])[N:32]([CH3:33])[C:34]2([C:35](=[O:36])[O:37][CH3:38])[C:39](=[O:40])[O:41][CH3:42],water,298.15,15.89541184418382,-41.79678582439135
